US06124314
(3-Aminomethyl-phenyl)-acetic acid methyl ester hydrochloride.
To a solution of (3-cyano-phenyl)-acetic acid methyl ester (18.06 g, 103 mmol) in MeOH (150 mL) and 4M HCl in dioxane (30.0 mL, 120 mmol) was added 10% palladium on carbon (2 g). The mixture was placed on a Parr shaker and was hydrogenated at 50 psi hydrogen for 24 h. The catalyst was removed via filtration through Celite® and the organic solution was concentrated in vacuo. The resulting solid was stirred in EtOAc and filtered to provide the title compound as a white solid (20.42 g). 1H NMR (400 MHz, CD3OD) δ 7.42-7.32 (m, 4H), 4.09 (s, 2H), 3.69 (s, 2H), 3.67 (s, 3H); MS 180 (M+1). mg).

reactant | (3-cyano-phenyl)-acetic acid methyl ester | 103 mmol, 18.06 g | COC(CC1=CC(=CC=C1)C#N)=O | C10H9NO2
reactant | dioxane | 120 mmol, 30.0 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen | [H][H] | H2
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 150 mL | CO | CH4O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | (3-Aminomethyl-phenyl)-acetic acid methyl ester hydrochloride | 20.42 g | Cl.COC(CC1=CC(=CC=C1)CN)=O | InChI=1S/C10H13NO2.ClH/c1-13-10(12)6-8-3-2-4-9(5-8)7-11;/h2-5H,6-7,11H2,1H3;1H
